2108-08-13 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2108-8-12**] 11:05 PM
   newly inserted foley
 PHERESIS CATHETER - START [**2108-8-13**] 12:53 AM
   placed with ultrasound, xray verified
   Patient had plasmapheresis overnight.
   Received first treatment of hydroxyurea overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2108-8-13**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-8-13**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 82 (71 - 100) bpm
   BP: 97/46(57) {97/46(57) - 136/70(82)} mmHg
   RR: 28 (22 - 37) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 99.7 kg (admission): 99.7 kg
             Total In:
                                                                    697 mL
                                                                  1,009 mL
   PO:
             TF:
   IVF:
                                                                    297 mL
                                                                    859 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    480 mL
   Urine:
                                                                    100 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    197 mL
                                                                    529 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///29/
   Physical Examination
   Gen: Age appropriate male in NAD
   HEENT: Perrl, eomi, sclerae anicteric. MMM, OP clear without lesions,
   exudate, or erythema.
   CV: Irregular S1+S2, harsh IV/VI systolic murmur throughout the
   precordium radiating to the carotids.
   Pulm: CTAB
   Abd: S/NT/ND +bs
   Ext: No c/c/e, 1+ dp/pt bilaterally
   Neuro: AOx3, CN II-XII intact
   Labs / Radiology
   107 K/uL
   9.9 g/dL
   166 mg/dL
   2.7 mg/dL
   29 mEq/L
   3.1 mEq/L
   46 mg/dL
   102 mEq/L
   145 mEq/L
   29.3 %
   65.2 K/uL
        [image002.jpg]
                             [**2108-8-12**]  09:49 PM
                             [**2108-8-13**]  02:20 AM
                             [**2108-8-13**]  02:55 AM
   WBC
   159.0
   102.3
   65.2
   Hct
   31.0
   29.1
   29.3
   Plt
   [**Telephone/Fax (3) 8887**]
   Cr
   2.8
   2.7
   TropT
   0.21
   0.18
   Glucose
   122
   166
   Other labs: PT / PTT / INR:20.5/37.4/1.9, CK / CKMB /
   Troponin-T:84/4/0.18, Alk Phos / T Bili:/0.4, D-dimer:7886 ng/mL,
   Fibrinogen:102 mg/dL, LDH:2370 IU/L, Ca++:9.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ATRIAL FIBRILLATION (AFIB)
 COAGULOPATHY
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Assessment and Plan: Mr. [**Known lastname 8877**] is a 77 year old gentleman with a PMH
   significant for prostate CA on lupron therapy, GERD, and past afib s/p
   cardioversion admitted to the [**Hospital Unit Name 1**] for urgent plasmapheresis with a
   preliminary diagnosis of AML.
   .
   #AML (unsure if APL, or M3 subtype): Patient s/p plasmaphoresis, s/p
   chemo therapy with hydroxyurea. Hyperviscosity was likely complicating
   both cardiac and renal function. AML complications including tumor
   lysis and DIC and end organ dysfunction with cardiac demand ischemia
   and ARF.
   --f/u oncology notes. Oncology will increase dose of hydroxyurea.
   --Continue to monitor patient for any symptoms relating to
   hyperviscosity syndrome.
    --Follow-up flow and marrow results.
   .
   #DIC: Patient currently has no signs of bleeding. Has increased PT/PTT,
   decreased fibrinogen, increased LDH, High FDPs and high D dimer.
   --check DIC labs every 6 hrs
   --goal for fibrinogen >100, INR>1.5, platelets >50. Give
   crypo/platelets as needed.
   .
   #Tumor lysis: complicated by ARF.
   --tumor lysis labs q6 hr
   --150 meq sodium Bicarb at 150 cc/hr with a goal UOP of >100cc/hr. Use
   furosemide sparingly to diurese.
   --Given dose of Rasburicase 6 mg x1
   .
   # CHF/CV: Patient with BNP of [**Numeric Identifier 8878**] and CXR with cephalization
   suggestive of heart failure.  He is currently asymptomatic without
   dyspnea, orthopnea, chest pain, or PND. The patient also has an
   elevated TnT with flat CK in the setting of acute renal failure, likely
   representing demand ischemia.  One possible etiology is AS and sludging
   from leukostasis leading to demand ischemia and failure.  Another
   possible etiology is sludging leading to pulmonary emboli causing right
   heart failure and atrial fibrillation with CXR without significant
   pulmonary edema. ECG showing ST elevations in V1-V3.
   - Rasburicase, IVF, leukopheresis as above.
   - Lasix if patient develops volume overload
   - TTE and LENIs. Hold off on anticoagulation for now.
   - Rule out ACS with serial cardiac biomarkers and repeat ECG.
   - obtain old EKG.
   - Continue metoprolol and ASA
   - CE q 6hr
   # Acute renal failure: Unknown baseline. Possible etiologies include
   ARF from tumor lysis syndrome, DIC, or hypovolemia/poor cardiac output
   (less likely).
   - Trend creatinine
   - IVF as above.
   - check urine lytes
   # Anemia: Likely secondary to AML.
   - Trend CBC, transfuse for hct<25.
   - Guaiac stools.
   .
   # Atrial fibrillation: Not currently anticoagulated.
   - Continue metoprolol with goal HR 80-100.
   - Hold anticoagulation for now.
   .
   # GERD: Continue PPI
   .
   # HTN: Hold lisinopril given ARF. Continue metoprolol as above.
   .
   # Hyperlipidemia: Hold statin.
   ICU Care
   Nutrition: Regular diet. On normal saline with 3 amps of Bicarb.
   Glycemic Control:  No RISS
   Lines:
   Pheresis Catheter - [**2108-8-13**] 12:53 AM
   20 Gauge - [**2108-8-13**] 05:08 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:  [**First Name4 (NamePattern1) 8888**] [**Last Name (NamePattern1) **], MD. No contact with family
   yet.
   Code status:  Full code
   Disposition: Pending oncologic issues.

2108-08-14 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2108-8-13**] 10:09 AM
 BLOOD CULTURED - At [**2108-8-13**] 11:33 PM
 URINE CULTURE - At [**2108-8-13**] 11:33 PM
 FEVER - 101.6
F - [**2108-8-14**] 12:00 AM
   - received Hydroxyurea 3000 mg PO TID x 1 day (total 9000mg)
   - spiked to 101 while receiving 2 units FFP, was panCx, then received 1
   unit of cryo
   - patient complains of a sore throat
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-8-14**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.9
C (100.2
   HR: 91 (75 - 101) bpm
   BP: 124/56(72) {96/53(63) - 130/73(87)} mmHg
   RR: 28 (21 - 38) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 99.7 kg (admission): 99.7 kg
             Total In:
                                                                  5,094 mL
                                                                    988 mL
   PO:
                                                                  1,080 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,116 mL
                                                                    748 mL
   Blood products:
                                                                    748 mL
   Total out:
                                                                  1,956 mL
                                                                  1,120 mL
   Urine:
                                                                  1,956 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,138 mL
                                                                   -132 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: Age appropriate male in NAD
   HEENT: Perrl, eomi, sclerae anicteric. MMM, OP clear without lesions,
   exudate, or erythema.
   CV: Irregular S1+S2, harsh IV/VI systolic murmur throughout the
   precordium radiating to the carotids.
   Pulm: CTAB
   Abd: S/NT/ND +bs
   Ext: No c/c/e, 1+ dp/pt bilaterally
   Neuro: AOx3, CN II-XII intact
   Labs / Radiology
   33 K/uL
   8.3 g/dL
   130 mg/dL
   2.7 mg/dL
   30 mEq/L
   3.2 mEq/L
   62 mg/dL
   98
   142 mEq/L
   24.2 %
   12.2 K /uL
                             [**2108-8-12**]  09:49 PM
                             [**2108-8-13**]  02:20 AM
                             [**2108-8-13**]  02:55 AM
                             [**2108-8-13**]  10:52 AM
                             [**2108-8-13**]  05:30 PM
                             [**2108-8-13**]  11:10 PM
                             [**2108-8-14**]  04:56 AM
   WBC
   159.0
   102.3
   65.2
   51.6
   47.2
   20.0
   12.2
   Hct
   31.0
   29.1
   29.3
   29.5
   30.5
   25.2
   24.2
   Plt
   [**Telephone/Fax (3) 8917**]2
   109
   44
   33
   Cr
   2.8
   2.7
   TropT
   0.21
   0.18
   Glucose
   122
   166
   Other labs: PT / PTT / INR:19.3/36.9/1.8, CK / CKMB /
   Troponin-T:118/4/0.18, Alk Phos / T Bili:/0.4, D-dimer:8897 ng/mL,
   Fibrinogen:218 mg/dL, LDH:5200 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:7.5 mg/dL FDP: 320-640
   ProBNP: [**Numeric Identifier 8924**]
   FeNa: 2.9%
   FeUrea: 33%
   Studies:
   LENI ([**2108-8-13**]): No DVT bilaterally
   TTE ([**2108-8-13**]): Moderate aortic stenosis and symmetric LVH. Normal
   regional and global biventricular systolic function. Mild pulmonary
   artery systolic hypertension. LVEF>55%.
   Cxs:
   Urine ([**8-12**], [**8-13**]): negative to date
   Blood ([**8-12**], [**8-13**], [**8-14**]): negative to date
   Assessment and Plan
 ALTERATION IN NUTRITION
 ATRIAL FIBRILLATION (AFIB)
 COAGULOPATHY
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Assessment and Plan: Mr. [**Known lastname 8877**] is a 77 year old gentleman with a PMH
   significant for prostate CA on lupron therapy, GERD, and past afib s/p
   cardioversion admitted to the [**Hospital Unit Name 1**] for urgent plasmapheresis with a
   preliminary diagnosis of AML.
   .
   #AML with blasts, monocytic subtype on bone marrow: Patient s/p
   plasmaphoresis, s/p chemo therapy with hydroxyurea. Hyperviscosity was
   likely complicating both cardiac and renal function. WBC trending
   towards normal levels s/p 4 treatment with hydroxyurea. AML
   complications including tumor lysis and DIC and end organ dysfunction
   with resolved cardiac demand ischemia and ARF.
   --f/u oncology notes. Oncology will hold on hydroxyurea today.
   --Continue to monitor patient for any symptoms relating to
   hyperviscosity syndrome.
    --Obtain records about baseline CBC/chemistries from OSH
   .
   #Fever: Patient had a fever while getting FFP transfusion. Also
   complains of a sore throat today.
   --f/u cultures
   --Will start cefepime (started [**8-14**]) and vanco (started [**8-14**]) for
   prophylaxis.
   #DIC: Patient currently has no signs of bleeding. Has increased PT/PTT,
   increased LDH, High FDPs and high D dimer.
   --check DIC labs every 6 hrs
   --goal for fibrinogen >100, INR>1.5, platelets >20. Give
   crypo/platelets as needed.
   .
   #Tumor lysis: complicated by ARF.
   --tumor lysis labs q6 hr
   --150 meq sodium Bicarb at 150 cc/hr with a goal UOP of >100cc/hr. Use
   furosemide sparingly to diurese.
   --Given dose of Rasburicase 6 mg x1
    # Acute renal failure: Unknown baseline. Possible etiologies include
   ARF from tumor lysis syndrome, DIC, or hypovolemia/poor cardiac output
   (less likely). FeNa=2.9%, FeUrea=33%, so likely not pre-renal.
   - Trend creatinine
   - D5 with 3 amps of Bicarb at 100.
   - Onc recommends renal consult if thinking about dialysis.
   # Anemia: Likely secondary to AML.
   - Trend CBC, transfuse for hct<25.
   - Transfuse 1 unit of pRBCs today.
   - Guaiac stools.
   # CHF/CV: Patient with BNP of [**Numeric Identifier 8924**] and CXR with cephalization
   suggestive of heart failure.  He is currently asymptomatic without
   dyspnea, orthopnea, chest pain, or PND. The patient also has an
   elevated TnT with flat CK in the setting of acute renal failure, likely
   representing demand ischemia.  One possible etiology is AS and sludging
   from leukostasis leading to demand ischemia and failure.  Another
   possible etiology is sludging leading to pulmonary emboli causing right
   heart failure and atrial fibrillation with CXR without significant
   pulmonary edema. ECG showing ST elevations in V1-V3.
   - Rasburicase, IVF, leukopheresis as above.
   - Lasix if patient develops volume overload
   - Continue metoprolol.
   - Will D/C ASA.
   # Atrial fibrillation: Not currently anticoagulated.
   - Continue metoprolol with goal HR 80-100.
   - Hold anticoagulation for now.
   .
   # GERD: Continue PPI
   .
   # HTN: Hold lisinopril given ARF. Continue metoprolol as above.
   .
   # Hyperlipidemia: Hold statin.
   ICU Care
   Nutrition: Regular diet. Nutrition consult ordered for poor PO intake.
   Fluids: D5W with 3 amps bicarb @100 cc/hr
   Glycemic Control:  None
   Lines:
   Pheresis Catheter - [**2108-8-13**] 12:53 AM
   20 Gauge - [**2108-8-13**] 05:08 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: [**First Name4 (NamePattern1) 8888**] [**Last Name (NamePattern1) **], MD. No contact with family
   yet.
   Code status: Full code
   Disposition:

2108-08-15 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No overnight events
   This morning, the patient complains of confusion at times.
   The patient also complains of a non-productive cough with a tingling in
   the back of his throat.
   Has had a poor appetite with low PO intake.
   No n/v/chest pain/reports of SOB/dizziness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2108-8-14**] 10:00 AM
   Cefipime - [**2108-8-14**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-8-15**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 86 (73 - 91) bpm
   BP: 114/61(73) {99/51(64) - 128/73(83)} mmHg
   RR: 25 (21 - 31) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 103.6 kg (admission): 99.7 kg
   Height: 70 Inch
             Total In:
                                                                  4,172 mL
                                                                    928 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                  3,237 mL
                                                                    928 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  4,650 mL
                                                                  1,470 mL
   Urine:
                                                                  4,650 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -478 mL
                                                                   -542 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Gen: Age appropriate male in NAD
   HEENT: Perrl, eomi, sclerae anicteric. MMM, OP clear without lesions,
   exudate, or erythema.
   CV: Irregularly irregular. S1+S2, harsh IV/VI systolic murmur
   throughout the precordium radiating to the carotids.
   Pulm: Full breath sounds. Crackles bilaterally at bases. No rhonchi or
   wheezes.
   Abd: S/NT/ND +bs
   Ext: No c/c/e, 1+ dp/pt bilaterally
   Neuro: AOx3
   Labs / Radiology
   22 K/uL
   8.9 g/dL
   140 mg/dL
   2.2 mg/dL
   26 mEq/L
   3.5 mEq/L
   53 mg/dL
   103 mEq/L
   139 mEq/L
   26.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2108-8-13**]  02:55 AM
                             [**2108-8-13**]  03:55 AM
                             [**2108-8-13**]  10:52 AM
                             [**2108-8-13**]  05:30 PM
                             [**2108-8-13**]  11:10 PM
                             [**2108-8-14**]  04:56 AM
                             [**2108-8-14**]  12:35 PM
                             [**2108-8-14**]  05:55 PM
                             [**2108-8-14**]  11:39 PM
                             [**2108-8-15**]  05:49 AM
   WBC
   65.2
   102.3
   51.6
   47.2
   20.0
   12.2
   10.3
   7.7
   7.7
   4.9
   Hct
   29.3
   29.1
   29.5
   30.5
   25.2
   24.2
   26.7
   27.7
   27.9
   26.3
   Plt
   107
   154
   92
   109
   44
   33
   28
   27
   22
   22
   Cr
   2.7
   2.7
   2.5
   2.4
   2.3
   2.2
   TropT
   0.18
   Glucose
   166
   130
   119
   128
   136
   140
   Other labs: PT / PTT / INR:16.1/34.9/1.4, CK / CKMB /
   Troponin-T:118/4/0.18, Alk Phos / T Bili:/0.4, Differential-Neuts:78.5
   %, Band:0.0 %, Lymph:12.3 %, Mono:7.8 %, Eos:1.2 %, D-dimer:8897 ng/mL,
   Fibrinogen:428 mg/dL, LDH:[**2094**] IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.4 mg/dL
   Culture data:
   --blood ([**8-13**], [**8-14**]): negative to date
   --urine ([**8-13**]): Group B strept
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 ALTERATION IN NUTRITION
 ATRIAL FIBRILLATION (AFIB)
 COAGULOPATHY
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
   Assessment and Plan: Mr. [**Known lastname 8877**] is a 77 year old gentleman with a PMH
   significant for prostate CA on lupron therapy, GERD, and past afib s/p
   cardioversion admitted to the [**Hospital Unit Name 1**] for urgent plasmapheresis with a
   preliminary diagnosis of AML.
   .
   #AML with blasts, monocytic subtype on bone marrow: Patient s/p
   plasmaphoresis, s/p chemo therapy with hydroxyurea. Hyperviscosity was
   likely complicating both cardiac and renal function. WBC trending
   towards normal levels s/p 4 treatment with hydroxyurea. AML
   complications included tumor lysis and DIC and end organ dysfunction
   with resolved cardiac demand ischemia and ARF.
   --f/u oncology notes. Oncology will hold on hydroxyurea today.
    --Obtain records about baseline CBC/chemistries from OSH
   .
   #UTI/fever: Patient had a fever while getting FFP transfusion. Patient
   has Group B streptococcus in urine culture. Patient is essentially
   neutropenic, so will treat for prophylaxis also.
   --Continue cefepime (started [**8-14**]) and vanco (started [**8-14**]) for
   prophylaxis.
   --f/u blood culture
   --f/u CXR results in AM
   #DIC: Patient currently has no signs of bleeding. Resolved DIC. Has
   increased PT/PTT, increased LDH, High FDPs and high D dimer.
   --check DIC labs [**Hospital1 7**]
   --goal for fibrinogen >100, INR<1.5, platelets >10. Give
   crypo/platelets as needed.
   .
   #Tumor lysis: complicated by ARF. Problem resolved.
   --tumor lysis labs [**Hospital1 7**].
   -- UOP of >100cc/hr, so will continue fluids at D51/2 NS @ 100 cc/hr.
   --Given dose of Rasburicase 6 mg x1
   --Continue allopurinol.
    # Acute renal failure: Unknown baseline. Possible etiologies include
   ARF from tumor lysis syndrome, DIC, or hypovolemia/poor cardiac output
   (less likely). FeNa=2.9%, FeUrea=33%, so likely not pre-renal.  Likely
   a chronic component also.
   - Trend creatinine. Resolving.
   - Continue fluids of D51/2 NS @ 100 cc/hr.
   - Obtain OSH labs for baseline Cr.
   # Anemia: Likely secondary to AML. Resolved
   - Trend CBC, transfuse for hct<25.
   - Guaiac stools.
   # CHF/CV: Patient with BNP of [**Numeric Identifier 8924**] and CXR with cephalization
   suggestive of heart failure.  He is currently asymptomatic without
   dyspnea, orthopnea, chest pain, or PND. The patient also has an
   elevated TnT with flat CK in the setting of acute renal failure, likely
   representing demand ischemia.  One possible etiology is AS and sludging
   from leukostasis leading to demand ischemia and failure.  Another
   possible etiology is sludging leading to pulmonary emboli causing right
   heart failure and atrial fibrillation with CXR without significant
   pulmonary edema. ECG showing ST elevations in V1-V3.
   - Rasburicase, IVF, leukopheresis as above.
   - Lasix if patient develops volume overload
   - Continue metoprolol.
   - D/C
ed ASA because low platelets.
   # Atrial fibrillation: Not currently anticoagulated.
   - Continue metoprolol with goal HR 80-100.
   - Hold anticoagulation for now.
   .
   # GERD: Continue PPI
   .
   # HTN: Hold lisinopril given ARF. Continue metoprolol as above.
   .
   # Hyperlipidemia: Hold statin.
   ICU Care
   Nutrition: Regular diet. Nutrition consult ordered for poor PO intake.
   D51/2 NS @ 100 cc/hr.
   Glycemic Control:  None
   Lines:
   Pheresis Catheter - [**2108-8-13**] 12:53 AM
   20 Gauge - [**2108-8-13**] 05:08 AM
   18 Gauge
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Bowel: Start Senna/Colace. Has not had a BM in 10 days.
   Communication:  Comments: [**First Name4 (NamePattern1) 8888**] [**Last Name (NamePattern1) **], MD. Oncology spoke with
   daughter yesterday about prognosis.
   Code status: Full code
   Disposition: Can be called out to BMT.
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points:  77 yo M with prostate ca, gerd, remote a-fib
   post cardioversion presented with AML blast crisis c/b ARF (cr 2.8),
   elevated BNP, demand ischemia, atrial fib in setting of hyperviscosity,
   and DIC. He remains on antbx for functional neutropenia with recent
   fever.  He required no additional product/blood transfusions yesterday
   and has no signs of active bleeding.
   Exam: 100.6-->99.6   80-90 (fib)  MAP 60-80  20   98% 2L
   Alert m, nad, decreased oozing from phoresis cath site, scant rales,
   systolic m at L sternal border, RR, obese abd, NT soft, no edema,
   nonfocal neuro exam
   LABS: wbc 4.9, hct 26.3  plt 22, bun/cr 53/2.2  AG 10  inr 1.4  fib
   428  ua 3.2 phos 5.2
   Urine cx: group b strep
   Agree with plan to continue allopurinol, following electrolytes.  His
   acute tumor lysis has resolved.  Will switch his IVF to maintenance,
   given poor po intake, monitoring his u/o closely. His counts are
   dropping post hydrea.  Additional chemo regimen per onc team.. He has
   functional neutropenia and in setting of recent fever will continue
   neutropenic coverage with vanco/cefepime day 2, following remaining cx
   data.  Vanco adequately covers his pos urine for group b strep. Will
   check repeat cxr as well given c/o cough, though he remains stable from
   respiratory standpoint on 2L NC.  His DIC has resolved and he shows no
   signs of active bleeding.  We continue to follow [**Hospital1 7**] DIC labs.  Will
   maintain plts > 10.  ARF is most likely from tumor lysis vs
   microvascular thrombosis from DIC vs atn.  We do not know his baseline
   fx.  We continue to renally dose meds.  His phos is trending down and
   he is maintaining good urine outpt.  Will assess OSH records for
   baseline labs.
   ICU: boots, PPI, Phoresis cath, PIVs, nutrition consider picc line
   placement.
   Remainder of plan as outlined in resident note.
   Pt is stable for transfer to BMT service.
   Time spent 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2108-8-15**] 03:02 PM ------